US07402606B2
A solution of 1.74 mL (12.4 mmol) of diisopropylamine in 20 mL of tetrahydrofuran was cooled to −78° C. before 7.75 mL (12.4 mmol) of 1.6 M n-butyl lithium in hexanes was added dropwise. The solution was allowed to warm to 0° C. briefly before being cooled to −78° C. A solution of dimethyl (2S,3S)-2-hydroxy-3-methylbutanedioate in 1 mL of tetrahydrofuran was then added dropwise. The reaction mixture was allowed to warm to −10° C., and was stirred for 45 min before being cooled to −78° C. To the reaction mixture was added 0.52 mL (6.5 mmol) of ethyl iodide dropwise. The reaction mixture was then stirred for 1 h before being allowed to warm to room temperature. After 18 h, the reaction mixture was poured onto a mixture of ether, ice water, and 1.8 mL of acetic acid. The mixture was extracted with ether, and the combined extracts were washed with saturated sodium bicarbonate and brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica chromatography eluting with 3:7 ethyl acetate:hexanes to afford 430 mg (6.8%) of dimethyl (2R,3S)-2-ethyl-3-hydroxy-2-methylbutanedioate. 1H NMR (300 MHz, DMSO-d6) δ 5.73 (s, 1H), 4.28 (s, 1H), 3.66 (s, 3H), 3.62 (s, 3H), 1.66 (m, 1H), 1.38 (m, 1H), 0.76 (t, J=7 Hz, 3H).

reactant | diisopropylamine | 12.4 mmol, 1.74 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 12.4 mmol, 1.6 M, 7.75 mL | C(CCC)[Li]
reactant | dimethyl (2S,3S)-2-hydroxy-3-methylbutanedioate | O[C@H](C(=O)OC)[C@@H](C(=O)OC)C | C7H12O5
reactant | ethyl iodide | 6.5 mmol, 0.52 mL | C(C)I | C2H5I
reactant | acetic acid | 1.8 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | dimethyl (2R,3S)-2-ethyl-3-hydroxy-2-methylbutanedioate | 430 mg, 6.8% | C(C)[C@@](C(=O)OC)([C@@H](C(=O)OC)O)C | C9H16O5
